US06166205
2-{4-[(2-phenylimidazol-5-yl)methyl]piperazinyl}quinazoline
A sample of 2-phenyl-4-hydroxymethylimidazole (348 mg, 2 mmol) is heated for 5 min in thionyl chloride (5 mL) and subsequently concentrated. Chloroform (10 mL) is added and the solution reconcentrated. The resulting dark oil is then taken up in chloroform (10 mL) and treated with 1-quinazolin-2-ylpiperazine (428 mg, 2 mmol) and triethyl amine (2 mL). After 10 minutes, the reaction is washed with 2N NaOH solution, dried (Na2SO4) and concentrated to provide the title compound (Compound 4) as an oil (640 mg), the hydrochloride salt is prepared in a conventional manner, m.p. 101-105° C. (Compound 4a). 1H NMR (CDCl3) 9.0 (s, 1H), 7.9 (d, J=7 Hz, 2H), 7.65 (m, 2H), 7.55 (d, J=6 Hz, 1H), 7.2-7.4 (m, 4H), 7.0 (s, 1H, imidazole CH), 3.95 (m, 4H), 3.6 (s, 2H), 2.6 (t, J=5 Hz, 4H).

reactant | 2-phenyl-4-hydroxymethylimidazole | 2 mmol, 348 mg | C1(=CC=CC=C1)C=1NC=C(N1)CO | C10H10N2O
reactant | 1-quinazolin-2-ylpiperazine | 2 mmol, 428 mg | N1=C(N=CC2=CC=CC=C12)N1CCNCC1 | C12H14N4
reactant | triethyl amine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-{4-[(2-phenylimidazol-5-yl)methyl]piperazinyl}quinazoline | 640 mg | C1(=CC=CC=C1)C=1NC(=CN1)CN1CCN(CC1)C1=NC2=CC=CC=C2C=N1 | C22H22N6
